US06716862B2
5-(4′-Chlorobiphen-4-ylmethyl)-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione
Prepared analogously to Example 9 from from 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione and 4′-bromomethyl-4-chlorobiphenyl in N,N-dimethylformamide. Trituration with diethyl ether provided an off-white solid. 1H NMR: δ 7.99 (s, 1H), 7.93 (dm, J=9.0 Hz, 2H), 7.45-7.49 (m, 4H), 7.38-7.41 (m, 2H), 7.23-7.26 (m, 2H), 7.06 (dm, J=9.0 Hz, 2H), 3.97, (A of AB, J=13.7 Hz, 1H), 3.92 (s, 3H), 3.39 (B of AB, J=13.7 Hz, 1H). MS (m/e): 486.0 & 488.0 (M−H)−Cl isotopes. Anal: Calc for C23H18ClNO5S2.C3H7NO: 55.66% C, 4.49% H, 4.99% N; Found: 55.57% C, 4.41% H, 4.85% N. MP: 197-200° C.

reactant | 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | COC1=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O | C10H9NO5S2
reactant | 4′-bromomethyl-4-chlorobiphenyl | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C13H10BrCl
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(4′-Chlorobiphen-4-ylmethyl)-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | ClC1=CC=C(C2=CC=C(C=C2)CC2(C(NC(S2)=O)=O)S(=O)(=O)C2=CC=C(C=C2)OC)C=C1 | C23H18ClNO5S2
